US06372770B1
(c) 2-(2-Chlorobenzyl)-5-chloro-7-(3-methoxy-1-propyl)Benzoxazole
2-(2-Chlorobenzyl)-5-chloro-7-(3-methanesulfonyloxy-1-propyl)-benzoxazole was stirred overnight with a solution of sodium methoxide prepared from methanol (100 ml) and sodium (2.7 g, 0.118 mol). The reaction mixture was diluted with water and extracted with dichloromethane. The dichloromethane solution was washed with water and evaporated to give the crude product (10 g). The crude product was purified over flash chromatography silica gel and eluted with 30% dichloromethane/hexane. The effluent was collected in 200 ml fractions. Fractions 1-7 contained an impurity (7.1 g); fractions 8-11 were collected (1.8 g) and recrystallized three times from hexane to give the title compound (0.4 g), mp 49-51°.

reactant | 2-(2-Chlorobenzyl)-5-chloro-7-(3-methanesulfonyloxy-1-propyl)-benzoxazole | ClC1=C(CC=2OC3=C(N2)C=C(C=C3CCCOS(=O)(=O)C)Cl)C=CC=C1 | C18H17Cl2NO4S
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
reactant | sodium | 0.118 mol, 2.7 g | [Na] | Na
solvent | water | O | H2O
product | 2-(2-Chlorobenzyl)-5-chloro-7-(3-methoxy-1-propyl)Benzoxazole | 0.4 g | ClC1=C(CC=2OC3=C(N2)C=C(C=C3CCCOC)Cl)C=CC=C1 | C18H17Cl2NO2
